US07648992B2
Triflic anhydride (1.01 mL, 6.0 mmol) was added dropwise to a stirred mixture of 2-(trifluoromethyl)pyrimidin-5-ol (prepared according to U.S. Pat. No. 4,558,039) (0.82 g, 5.0 mmol), toluene (10 mL) and aqueous tripotassium phosphate (30% by weight, 10 mL) at ice-bath temperature (Frantz et al., Organic Letters, 2002, 4(26), 4717-4718). When the addition was complete the ice-bath was taken away and the solution was stirred at ambient temperature for 30 minutes. The clear phases were separated and the organic layer was washed with water, then brine. Drying of the organic phase over anhydrous sodium sulfate, filtration and concentration by rotary evaporation at room temperature afforded 2-(trifluoromethyl)-pyrimidine-5-yl trifluoromethanesulfonate as a colourless oil (1.38 g, 93%). B.p. 75-77° C. (10 mbar).

reactant | Triflic anhydride | 6.0 mmol, 1.01 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-(trifluoromethyl)pyrimidin-5-ol | FC(C1=NC=C(C=N1)O)(F)F | C5H3F3N2O
reactant | tripotassium phosphate | 10 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(trifluoromethyl)-pyrimidine-5-yl trifluoromethanesulfonate | 1.38 g, 93% | FC(S(=O)(=O)OC=1C=NC(=NC1)C(F)(F)F)(F)F | C6H2F6N2O3S
